US07232823B2
Preparation of Intermediate 4-Chloro-2-(2-chloro-phenyl)-1-(4-chloro-phenyl)-1H-imidazo[4.5-d]pyridazine (I-2h)
A solution of 2-(2-chloro-phenyl)-1-(4-chloro-phenyl)-1,5-dihydro-imidazo[4,5-d]pyridazin-4-one (I-2g, 22 mg, 0.062 mmol) in POCl3 (3 ml) was heated under reflux for 2.5 hours. The reaction mixture was cooled to room temperature and the solvent was removed under vacuum. The residue was dissolved in toluene and again concentrated. This procedure was repeated twice. The residue was then taken up in CH2Cl2, and H2O was added. The pH of the aqueous solution was adjusted via addition of sat'd aq NaHCO3 until the pH was neutral (˜7). The CH2Cl2 layer was separated and the aqueous solution was extracted with CH2Cl2 (3×). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo to give I-2h as a pale yellow oil (22 mg): +APCI MS (M+1) 375.0/377.0; 1H NMR (CDCl3) δ 7.18–7.23 (2H, m), 7.35–7.48 (5H, m), 7.56–7.60 (1H, m), 9.22 (1H, s).

reactant | 2-(2-chloro-phenyl)-1-(4-chloro-phenyl)-1,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 0.062 mmol, 22 mg | ClC1=C(C=CC=C1)C1=NC2=C(C=NNC2=O)N1C1=CC=C(C=C1)Cl | C17H10Cl2N4O
reactant | POCl3 | 3 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-(2-chloro-phenyl)-1-(4-chloro-phenyl)-1H-imidazo[4.5-d]pyridazine | 22 mg | ClC1=C2C(=CN=N1)N(C(=N2)C2=C(C=CC=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4
